US07790709B2
Preparation of (E)-N-(3-Methoxy-2-propoxy-benzyl)-N-methyl-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride
According to the procedure of Example 1, except substituting 3-methoxy-2-propoxy-benzyl-methylamine for the me thyl-(1-propyl-naphthalen-2-ylmethyl)amine, and substituting (E)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3,-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, the title compound (0.10 g, 35%) was prepared as an off-white solid: 1H NMR (300 MHz, DMSO-d6) δ 10.68 (br s, 1H), 10.13 (m, 1H), 8.40-8.30 (m, 1H), 8.01-7.90 (m, 1H), 7.60-7.42 (m, 1H), 7.29-7.15 (m, 1H), 7.01-6.90 (m, 2H), 6.70-6.60 (m, 1H), 4.80-4.51 (m, 4H), 4.02-3.70 (m, 10H), 3.60-3.50 (m, 2H), 3.42-3.30 (m, 2H), 3.20-2.87 (m, 6H), 1.74-1.67 (m, 2H), 1.00-0.91 (m, 3H); MS (ESI) m/e 524 (M+H)+.

reactant | 3-methoxy-2-propoxy-benzyl-methylamine | COC=1C(=C(CNC)C=CC1)OCCC | C12H19NO2
reactant | me thyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
reactant | (E)-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylic acid hydrochloride | Cl.N1(CCOCC1)CCN1C(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
product | (E)-N-(3-Methoxy-2-propoxy-benzyl)-N-methyl-3-[3-(2-morpholin-4-yl-ethyl)-2-oxo-1,2,3,4-tetrahydro-pyrido[2,3-d]pyrimidin-6-yl]acrylamide hydrochloride | 0.10 g, 35% | Cl.COC=1C(=C(CN(C(\C=C\C2=CC3=C(NC(N(C3)CCN3CCOCC3)=O)N=C2)=O)C)C=CC1)OCCC | InChI=1S/C28H37N5O5.ClH/c1-4-14-38-26-22(6-5-7-24(26)36-3)19-31(2)25(34)9-8-21-17-23-20-33(28(35)30-27(23)29-18-21)11-10-32-12-15-37-16-13-32;/h5-9,17-18H,4,10-16,19-20H2,1-3H3,(H,29,30,35);1H/b9-8+;
